US07619086B2
Step 4: 1-(3-Chloro-4-fluorobenzyl)-4-methylsulfonyloxymethyl-5,6-dihydropyridin-2(1H)-one
A solution of 1-(3-chloro-4-fluorobenzyl)-4-hydroxymethyl-5,6-dihydropyridin-2(1H)-one (3.1 g, 11 mmol) from the previous step and DIEA (2.8 mL, 16 mmol) in CH2Cl2 (50 mL) was cooled to 0° C. with stirring. Methanesulfonyl chloride (1.4 g, 12 mmol) was added and the mixture was stirred at 0° C. for 30 min and then at ambient temperature for 1 hour. The reaction mixture was diluted with CH2Cl2 (75 mL) and extracted with water (2×30 mL). The CH2Cl2 layer was dried (MgSO4), filtered, and the solvent was removed under reduced pressure to give the title compound as a gum. 1H NMR (400 MHz, CDCl3) δ 7.31 (dd, J=6.9, 2.9 Hz, 1H), 7.1-7.2 (m, 2H), 4.64 (d, J=15 Hz, 1H), 4.44 (d, J=15 Hz, 1H), 4.13 (ABX, J=6, 15 Hz, 2H), 3.28 (m, 2H), 3.04 (s, 3H), 2.64 (m, 1H), 2.34 (m, 1H), 2.23 (dd, J=6, 16 Hz, 1H), 2.02 (m, 1H), 1.61 (m, 1H); HPLC RT=2.99 min (Method A); ES MS M+1=350.

reactant | 1-(3-chloro-4-fluorobenzyl)-4-hydroxymethyl-5,6-dihydropyridin-2(1H)-one | 11 mmol, 3.1 g | ClC=1C=C(CN2C(C=C(CC2)CO)=O)C=CC1F | C13H13ClFNO2
reactant | DIEA | 16 mmol, 2.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Methanesulfonyl chloride | 12 mmol, 1.4 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Chloro-4-fluorobenzyl)-4-methylsulfonyloxymethyl-5,6-dihydropyridin-2(1H)-one | ClC=1C=C(CN2C(C=C(CC2)COS(=O)(=O)C)=O)C=CC1F | C14H15ClFNO4S
